### PR TITLE
feat: make `ZFSet.sInter` computable by going through `sUnion`

### PR DESCRIPTION
**Pull request by RustyYato**
this preserves the special case that sInter ∅ = ∅ because sUnion and sep both return ∅ when given ∅

---

cc @digama0 https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/computable.20ZFSet.2EsInter/near/457162229

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 1]
```diff
@@ -809,6 +809,13 @@ theorem mem_sep {p : ZFSet.{u} → Prop} {x y : ZFSet.{u}} :
           rwa [mk_func, ← ZFSet.sound h]⟩,
         h⟩⟩
 
+@[simp]
+theorem sep_empty f : (∅ : ZFSet).sep f = ∅ := by
+  apply (eq_empty (ZFSet.sep f ∅)).mpr
+  intro k mem
+  have ⟨ h, _ ⟩ := mem_sep.mp mem
```
Comment (digama0) [inline Mathlib/SetTheory/ZFC/Basic.lean:816]:
```suggestion
  have ⟨h, _⟩ := mem_sep.mp mem
```

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 2]
```diff
@@ -876,17 +882,20 @@ theorem mem_sUnion {x y : ZFSet.{u}} : y ∈ ⋃₀ x ↔ ∃ z ∈ x, y ∈ z :
...
 theorem mem_sInter {x y : ZFSet} (h : x.Nonempty) : y ∈ ⋂₀ x ↔ ∀ z ∈ x, y ∈ z := by
-  rw [sInter, dif_pos h]
-  simp only [mem_toSet, mem_sep, and_iff_right_iff_imp]
-  exact fun H => H _ h.some_mem
+  unfold sInter
+  simp only [and_iff_right_iff_imp, mem_sep]
+  intro mem
+  apply mem_sUnion.mpr
+  replace ⟨ s, h ⟩ := h
+  exact ⟨ _, And.intro h (mem _ h) ⟩
```
Comment (digama0) [inline Mathlib/SetTheory/ZFC/Basic.lean:890]:
```suggestion
  replace ⟨s, h⟩ := h
  exact ⟨_, h, mem _ h⟩
```

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 3]
```diff
@@ -809,6 +809,12 @@ theorem mem_sep {p : ZFSet.{u} → Prop} {x y : ZFSet.{u}} :
           rwa [mk_func, ← ZFSet.sound h]⟩,
         h⟩⟩
 
+@[simp]
+theorem sep_empty f : (∅ : ZFSet).sep f = ∅ := by
+  apply (eq_empty (ZFSet.sep f ∅)).mpr
```
Comment (vihdzp) [inline Mathlib/SetTheory/ZFC/Basic.lean:814]:
```suggestion
  apply (eq_empty _).mpr
```

**Review by vihdzp — APPROVED** [review]
LGTM

**Comment by RustyYato** [comment]
Is there anything I need  to do to move this forward?

**Comment by vihdzp** [comment]
Changes in this part of the library are generally somewhat slow, it's just a matter of patience.

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 4]
```diff
@@ -809,6 +809,12 @@ theorem mem_sep {p : ZFSet.{u} → Prop} {x y : ZFSet.{u}} :
           rwa [mk_func, ← ZFSet.sound h]⟩,
         h⟩⟩
 
+@[simp]
+theorem sep_empty f : (∅ : ZFSet).sep f = ∅ := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/ZFC/Basic.lean:813]: Oh I'm just noticing this, but can you provide the type of `f` explicitly? The syntax looks pretty weird otherwise.

Comment (RustyYato) [reply Mathlib/SetTheory/ZFC/Basic.lean:813]: Sure, won't be able to for next few days. Will do this once I am able.

Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Basic.lean:813]: I can push this change myself if you don't mind.

Comment (RustyYato) [reply Mathlib/SetTheory/ZFC/Basic.lean:813]: Sure, thanks for all the help!

**Comment by vihdzp** [comment]
Hey, sorry for getting back to you so late. You made your PR from your own fork, but due to technical reasons we can only accept PRs made directly from a branch in this repository. If you don't have write access, you can request on Zulip; if you want, I can move the code over into my own PR (of course, crediting you).

**Comment by RustyYato** [comment]
Ah, I wasn't aware of that. Yes, I think that would be best for now. Thanks again! Will keep that in mind for the future.

**Comment by vihdzp** [comment]
I've moved this to #17248.
